US05252575
a) 3-(Isopropoxymethoxy)propanol
A solution of 1,3-propanediol (19.4 g, 255 mmol) in dry tetrahydrofuran (100 ml) under nitrogen at 0°-5° C. was treated with sodium hydride (2.04 g, 85 mmol) and stirred for 1 hour. Chloromethylisopropyl ether (9 g, 83 mmol) in dry tetrahydrofuran (15 ml) was added over 15 min. Stirring was continued for a further 2 hours. The reaction mixture was filtered and the filtrate was evaporated in vacuo. The residue was purified by column chromatography on silica eluting with dichloromethane:methanol (97:4) to give the title compound as a colourless oil. (5.3 g, 44%). νmax (Film) 3400, 2910, 2860, 2805, 2760, 1460, 1440, 1425, 1410 and 1380 cm-1 ; δH (CDCl3) 1.17 (3H, s, CH3), 1.20 (3H, s,CH3), 1.84 (2H, quintet, J=6 Hz CH2CH2CH2), 2.3 (1H, br s, D2O exchangeable OH), 3.72 (2H, t, J=6 Hz, CH2OCH2OCH(CH3)2) 3.76 (2H, t, J=6 Hz,CH2ON), 3.86 (1H, m, CH(CH3)2), 4.70 (2H, s, OCH2O).

reactant | 1,3-propanediol | 255 mmol, 19.4 g | C(CCO)O | C3H8O2
reactant | sodium hydride | 85 mmol, 2.04 g | [H-].[Na+]
reactant | Chloromethylisopropyl ether | 83 mmol, 9 g | ClCOC(C)C | C4H9ClO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3-(Isopropoxymethoxy)propanol | C(C)(C)OCOCCCO | C7H16O3
